US07491710B2
Methylphosphonic acid bis-(4-nitrophenyl) ester is prepared according to procedure E using 1 g of 4-nitrophenol, 12 ml of THF, 345 mg of sodium hydride at 50% in oil and 478 mg of methylphosphonic dichloride. 1.07 g of crude methylphosphonic acid bis-(4-nitrophenyl) ester are obtained.

reactant | 4-nitrophenol | 1 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | sodium hydride | 345 mg | [H-].[Na+]
reactant | methylphosphonic dichloride | 478 mg | CP(=O)(Cl)Cl | CH3Cl2OP
solvent | THF | 12 ml | C1CCOC1 | C4H8O
product | methylphosphonic acid bis-(4-nitrophenyl) ester | 1.07 g | [N+](=O)([O-])C1=CC=C(C=C1)OP(OC1=CC=C(C=C1)[N+](=O)[O-])(=O)C | C13H11N2O7P
